US07378415B2
2-Amino-4-benzenesulfonyl-phenol (2.064 g, 8.2 mmol) was dissolved in 15 mL of methyl ethyl ketone, and NaHCO3 (1.39 g, 9.1 mmol) was added to this solution. The reaction mixture was cooled to 0° C., and 2-chloroacetyl chloride (0.215 mL, 9.0 mmol) was added dropwise while stirring. The reaction mixture was stirred for 2 hours, after which K2CO3 (1.37 g, 9.95 mmol) was added, and the reaction was brought to reflux for three hours. The reaction mixture was cooled and 150 mL of EtOAc was added. The organic layer was washed three times with 50 ml water, once with 50 mL saturated brine, dried (Na2SO4) and concentrated in vacuo to yield a crude solid, which was purified by flash chromatography (10-30% EtOAc in hexanes), to afford 6-benzenesulfonyl-4H-benzo[1,4]oxazin-3-one (2.176 g, 7.52 mmol, 92%). MS: 290 (M+H)+.

reactant | 2-Amino-4-benzenesulfonyl-phenol | 8.2 mmol, 2.064 g | NC1=C(C=CC(=C1)S(=O)(=O)C1=CC=CC=C1)O | C12H11NO3S
reactant | NaHCO3 | 9.1 mmol, 1.39 g | C(=O)(O)[O-].[Na+]
reactant | 2-chloroacetyl chloride | 9.0 mmol, 0.215 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | K2CO3 | 9.95 mmol, 1.37 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methyl ethyl ketone | 15 mL | C(C)C(=O)C | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 6-benzenesulfonyl-4H-benzo[1,4]oxazin-3-one | 7.52 mmol, 2.176 g, 92% | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C14H11NO4S
